US04177335
Reaction of Pentaerythritol-Triethylphosphite-Pentachlorophenol-Tetrabromophthalic Anhydride-Propylene Oxide
A 5-liter flask, standardly equipped, was charged with 411 grams of pentaerythritol, 699 grams of pentachlorophenol containing about 750 ppm of aluminum and iron compounds, 699 grams of tetrabromophthalic anhydride, and 290 grams of triethylphosphite. After heating to 120° C., 1100 ml. of propylene oxide was added over a 4-day period at a temperature of 100°-144° C. The acid number at this stage was approximately 6. Then 2.8 grams of triethylamine was added, followed by the addition of propylene oxide at a temperature of 118°-135° C. to reduce the acid number to less than 1. The mixture was stripped for approximately 3.5 hours at 90°-102° C./5 mm. Hg pressure. A sample of the oxypropylated polyol product analyzed as follows:

reactant | pentaerythritol | 411 grams | OCC(CO)(CO)CO | C5H12O4
reactant | pentachlorophenol | 699 grams | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | aluminum | [Al] | Al
reactant | tetrabromophthalic anhydride | 699 grams | BrC=1C(=C(C(=C2C1C(=O)OC2=O)Br)Br)Br | C8Br4O3
reactant | triethylphosphite | 290 grams | C(C)OP(OCC)OCC | C6H15O3P
reactant | propylene oxide | C1C(C)O1 | C3H6O
catalyst | iron | [Fe] | Fe
solvent | triethylamine | 2.8 grams | C(C)N(CC)CC | C6H15N
product | Pentaerythritol Triethylphosphite Pentachlorophenol Tetrabromophthalic Anhydride Propylene Oxide | OCC(CO)(CO)CO.C(C)OP(OCC)OCC.ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl.BrC=1C(=C(C(=C2C1C(=O)OC2=O)Br)Br)Br.C1C(C)O1 | InChI=1S/C8Br4O3.C6HCl5O.C6H15O3P.C5H12O4.C3H6O/c9-3-1-2(8(14)15-7(1)13)4(10)6(12)5(3)11;7-1-2(8)4(10)6(12)5(11)3(1)9;1-4-7-10(8-5-2)9-6-3;6-1-5(2-7,3-8)4-9;1-3-2-4-3/h;12H;4-6H2,1-3H3;6-9H,1-4H2;3H,2H2,1H3
